US06262074B1
Step 4: 8-Methylsulfonyl-5-quinolinecarboxylic acid
38 ml of water and 102 g of concentrated sulfuric acid were heated to 110° C. At 95° C., 0.25 mol of 3-amino-4-methylsulfonylbenzoic acid was added. The mixture was then heated to 140° C., and 0.8 g of sodium iodide and 0.3 mol of glycerol were added. The reaction temperature was then increased to 150° C. While the mixture was heated to and stirred at 150° C. (1 hour), 47 g of distillate were collected. After cooling, the reaction mixture was carefully admixed with 200 ml of water and diluted with a further 800 ml of water. Using 20% strength aqueous sodium hydroxide solution, the pH was adjusted to 13 and the mixture was filtered and adjusted to pH 3.5 with sulfuric acid. This procedure was repeated. A precipitate was formed which was filtered off with suction. The filtrate was adjusted to pH=2 and the resulting precipitate was filtered off with suction, washed with water and dried.

reactant | sulfuric acid | 102 g | S(O)(O)(=O)=O | H2O4S
reactant | 3-amino-4-methylsulfonylbenzoic acid | 0.25 mol | NC=1C=C(C(=O)O)C=CC1S(=O)(=O)C | C8H9NO4S
reactant | sodium iodide | 0.8 g | [I-].[Na+]
reactant | glycerol | 0.3 mol | OCC(O)CO | C3H8O3
solvent | water | 38 ml | O | H2O
product | 8-Methylsulfonyl-5-quinolinecarboxylic acid | CS(=O)(=O)C1=CC=C(C=2C=CC=NC12)C(=O)O | C11H9NO4S
